US07615642B2
Step E: N-(3-Amino-4-{[(4-fluorocyclohexyl)methyl]amino}phenyl)acetamide
N-(4-{[(4-Fluorocyclohex-3-en-1-yl)methyl]amino}-3-nitrophenyl)acetamide (340 mg, 1.11 mmol) was dissolved in 25 mL of EtOAc containing a catalytic amount of 10% Pd/C. The solution was shaken under H2 atmosphere (40 psi) using a Parr hydrogenation apparatus at rt for 48 h. The solution was filtered through Celite and the solvent was evaporated. Yield: 308 mg (99%). MS (ESI) (M+H)−=279.95.

reactant | N-(4-{[(4-Fluorocyclohex-3-en-1-yl)methyl]amino}-3-nitrophenyl)acetamide | 1.11 mmol, 340 mg | FC1=CCC(CC1)CNC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C15H18FN3O3
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | Pd/C | [Pd] | Pd
product | N-(3-Amino-4-{[(4-fluorocyclohexyl)methyl]amino}phenyl)acetamide | NC=1C=C(C=CC1NCC1CCC(CC1)F)NC(C)=O | C15H22FN3O
